US04371713
In the same reaction apparatus as in Example 1, a solution prepared by dissolving 0.82 g of potassium borofluoride in 105 g of 25% fuming sulfuric acid was drowpise added to 500 g of tetrahydrofuran at -10° C. over a period of 40 minutes, and thereafter the mixture was subjected to reaction at -10° C. for one hour. The tetrahydrofuran conversion at the end of this reaction was 38%. Then, the reaction mixture was heated to 10° C. and further subjected to reaction for 2 hours. The conversion at the end of this reaction was 60%. Neither solidification nor coloration of the reaction system was observed in the entire course of the reaction. The polymerization product was then treated in the same manner as in Example 1 to obtain colorless PTMG. Its analytical results and the catalytic efficiency α were as shown in Table 1.

reactant | potassium borofluoride | 0.82 g | [B-](F)(F)(F)F.[K+]
reactant | tetrahydrofuran | 500 g | O1CCCC1 | C4H8O
solvent | sulfuric acid | 105 g | S(O)(O)(=O)=O | H2O4S
product | PTMG | CCCCO[C@@H](CC)CO | C8H18O2
